US07592487B2
1-Naphthaldehyde (2.7 mL, 20 mmol), (S)-(−)-N,α-dimetylbenzylamine (2.60 g, 19 mmol) and 2-naphthol (2.43 g, 16 mmol) are charged into a 25 mL flask with a magnetic stirring bar. The mixture is heated to 85° C. and stirred for 72 h. After the system is cooled to RT, MeOH (5 mL) is added and the precipitated product is collected by filtration, washed with MeOH (5 mL) and dried to afford 1-{(S)-[methyl-((S)-1-phenyl-ethyl)-amino]-naphthalen-1-yl-methyl}-naphthalen-2-ol as white crystals (about 51% yield): 1H NMR (500 MHz, CDCl3) δ 14.01 (br s, 1H), 7.77-7.02 (m, 18H), 6.45 (s, 1H), 4.40 (br s, 1H), 1.95 (s, 3H), 1.65 (br s, 3H); MS (EI) m/z (rel intensity) 418 (M++1), 283, 141, 136; HRMS (EI) Calcd for C30H28NO (M++1): 418.2171, found 418.2135.

reactant | 1-Naphthaldehyde | 20 mmol, 2.7 mL | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | (S)-(−)-N,α-dimetylbenzylamine | 19 mmol, 2.60 g | CN[C@H](C1=CC=CC=C1)C | C9H13N
reactant | 2-naphthol | 16 mmol, 2.43 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | MeOH | 5 mL | CO | CH4O
product | 1-{(S)-[methyl-((S)-1-phenyl-ethyl)-amino]-naphthalen-1-yl-methyl}-naphthalen-2-ol | about 51% yield | CN([C@@H](C)C1=CC=CC=C1)[C@H](C1=C(C=CC2=CC=CC=C12)O)C1=CC=CC2=CC=CC=C12 | C30H27NO
